US06448394B1
302.4 g (1.2 mol) carbonyl-bis-caprolactam was dissolved in 400 ml ethyl acetate at 78° C. In one hour 69.3 g (0.4 mol) triamino nonane, dissolved in 100 ml ethyl acetate, was added dropwise. The reaction was monitored by means of TLC. After 3 hours the clear solution was cooled to room temperature and extracted 4 times with 500 ml water (with some NaCl). The solution was then dried with NaSO4. The NaSO4 was removed by filtration and the ethyl acetate was removed by means of the rotavapor. The product was dried at 75° C. and in a vacuum. Caprolactam-blocked of 1,8-diisocyanato, 4-(isocyanatomethyl) nonane was obtained pure, as a lightly coloured oil (yield=99%).

reactant | carbonyl-bis-caprolactam | 1.2 mol, 302.4 g | C(=O)(C1CCCCC(=O)N1)C1CCCCC(=O)N1 | C13H20N2O3
reactant | triamino nonane | 0.4 mol, 69.3 g | NC(CCCCCCCC)(N)N | C9H23N3
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-(isocyanatomethyl) nonane | N(=C=O)CC(CCC)CCCCC | C11H21NO
